US05659036
Example 13 was repeated except that the 2,5-di(p-chloroanilino)-3,6-dihydroterephthalic acid dimethyl ester used in Example 13 was replaced with 7.56 parts of 2,5-dianilino-3,6-dihydroterephthalic acid dimethyl ester, to give 6.88 parts (98.9% of the theoretical yield) of 2,5-dianilinoterephthalic acid dimethyl ester.

reactant | 2,5-di(p-chloroanilino)-3,6-dihydroterephthalic acid dimethyl ester | COC(C1=C(CC(C(=O)OC)=C(C1)NC1=CC=C(C=C1)Cl)NC1=CC=C(C=C1)Cl)=O | C22H20Cl2N2O4
reactant | 2,5-dianilino-3,6-dihydroterephthalic acid dimethyl ester | COC(C1=C(CC(C(=O)OC)=C(C1)NC1=CC=CC=C1)NC1=CC=CC=C1)=O | C22H22N2O4
product | 2,5-dianilinoterephthalic acid dimethyl ester | COC(C1=C(C=C(C(=O)OC)C(=C1)NC1=CC=CC=C1)NC1=CC=CC=C1)=O | C22H20N2O4
